US07662832B2
Preparation 7. 2-(6-chloro-3-nitropyridin-2-yl)-1,2,3,4-tetrahydroisoquinoline
2,6-Dichloro-3-nitropyridine (10 g, 51.8 mmol) and sodium carbonate (8.8 g, 82.9 mmol) were added to anhydrous N,N-dimethylformamide (250 ml). 1,2,3,4-tetrahydroisoquinoline (7.14 ml, 82.9 mmol) was added at 0° C. to the reaction mixture, which was then stirred for 2 hours at 0° C. Water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was dried on anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (ethyl acetate/n-hexane=1/5, v/v) to give 10 g of the titled compound as yellow solid. (Yield: 81%).

reactant | 2,6-Dichloro-3-nitropyridine | 51.8 mmol, 10 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | sodium carbonate | 82.9 mmol, 8.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
reactant | 1,2,3,4-tetrahydroisoquinoline | 82.9 mmol, 7.14 ml | C1NCCC2=CC=CC=C12 | C9H11N
solvent | Water | O | H2O
product | 2-(6-chloro-3-nitropyridin-2-yl)-1,2,3,4-tetrahydroisoquinoline | 10 g, Yield: 81% | ClC1=CC=C(C(=N1)N1CC2=CC=CC=C2CC1)[N+](=O)[O-] | C14H12ClN3O2
